US08877782B2
N-Ethyl-6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 117, 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (100 mg, 0.26 mmol), 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (144 mg, 0.4 mmol) was converted, using ethylamine (2 M in THF) instead of 2,2,2-trifluoroethylamine, to the title compound (80 mg, 77 which was obtained as a white solid. MS: m/e=392.3 [M+H]+.

reactant | 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.26 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C18H13F3N2O4
reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.4 mmol, 144 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O4
reactant | ethylamine | 2 M | C(C)N | C2H7N
product | N-Ethyl-6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinamide | C(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C19H16F3N3O3
